US05130441
Synthesis of 2-(trans-2-ethylcyclohexylamino)-2-imidazoline.
A mixture of trans-2-ethylcyclohexylamine hydrochloride (0.30 g, 2.36 mmol), imidazoline-2-sulfonic acid (0.704 g, 4.72 mmol) and isobutanol (3 ml) was heated to 125° C. and maintained at that temperature for 2 hours. The mixture was cooled to room temperature, concentrated in vacuo and chromatographed (silica gel, 3:1 CHCl3 /CH3OH saturated with NH3 (g)) to yield 0.253 g (a yield of 65%) of the title compound as a white solid, which was characterized spectroscopically.

reactant | trans-2-ethylcyclohexylamine hydrochloride | 2.36 mmol, 0.30 g | Cl.C(C)[C@H]1[C@@H](CCCC1)N
reactant | imidazoline-2-sulfonic acid | 4.72 mmol, 0.704 g | N1C(=NCC1)S(=O)(=O)O | C3H6N2O3S
solvent | isobutanol | 3 ml | C(C(C)C)O | C4H10O
product | 2-(trans-2-ethylcyclohexylamino)-2-imidazoline | yield of 65% | C(C)[C@H]1[C@@H](CCCC1)NC=1NCCN1 | C11H21N3
